US05512588
A suspension of 2-acetamidomethyl-5-chloroacetyl-3-methylfuran (24.8 g) and thiourea (8.2 g) in ethanol (250 ml) was stirred at room temperature for 2 hours. The resulting precipitate was collected by filtration and then dissolved in water (200 ml). The mixture was alkalized with an aqueous potassium carbonate solution. The resulting precipitate was collected by filtration to afford 4-(5-acetylaminomethyl-4-methylfuran-2-yl)-2-aminothiazole (16.7 g).

reactant | 2-acetamidomethyl-5-chloroacetyl-3-methylfuran | 24.8 g | C(C)(=O)NCC=1OC(=CC1C)C(CCl)=O | C10H12ClNO3
reactant | thiourea | 8.2 g | NC(=S)N | CH4N2S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-(5-acetylaminomethyl-4-methylfuran-2-yl)-2-aminothiazole | 16.7 g | C(C)(=O)NCC1=C(C=C(O1)C=1N=C(SC1)N)C | C11H13N3O2S
